US04921887
To an ice-cooled mixture of 2-((2R)-2-acetoxypropionylamino)-4-[4-(diphenylmethoxy)piperidinomethyl]thiazole (2.1 g), water (4 ml) and methanol (17 ml) was added dropwise 1N sodium hydroxide solution (3 ml). After the addition had been completed, the reaction mixture was kept at 5° C. for 1 hour and allowed to warm to ambient temperature. After standing overnight at the same temperature, the reaction mixture was concentrated under reduced pressure. The residue was extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate. The solvent was distilled off and the residue was subjected to column chromatography on silica gel and eluted with a mixture of chloroform and methanol (30:1 V/V). The fractions containing the object compound were combined and concentrated under reduced pressure. The residue was triturated with 70% ethanol to give white powder. Recrystallization from 70% ethanol gave 2-(D-lactoylamino)-4-[4-(diphenylmethoxy)piperidinomethyl]thiazole (1.13 g).

reactant | 2-((2R)-2-acetoxypropionylamino)-4-[4-(diphenylmethoxy)piperidinomethyl]thiazole | 2.1 g | C(C)(=O)O[C@@H](C(=O)NC=1SC=C(N1)CN1CCC(CC1)OC(C1=CC=CC=C1)C1=CC=CC=C1)C | C27H31N3O4S
reactant | water | 4 ml | O | H2O
reactant | sodium hydroxide | 1N, 3 ml | [OH-].[Na+]
solvent | methanol | 17 ml | CO | CH4O
product | 2-(D-lactoylamino)-4-[4-(diphenylmethoxy)piperidinomethyl]thiazole | 1.13 g | C([C@H](O)C)(=O)NC=1SC=C(N1)CN1CCC(CC1)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C25H29N3O3S
